US04186135
134 g of 1-ethyl-2-aminomethyl-pyrrolidine, 950 cm3 of chloroform and, gradually, 183 g of 2,3-methylenedioxyl benzoyl chloride, with the temperature being maintained at from 5°-10° C., were introduced into a balloon flask provided with an agitator and a thermometer. After the addition of 1 liter of water, chloroform was distilled and then the remaining solution was filtered. After the addition of 120 cm3 of 20% ammonia and extraction with ether, the ethereal solution was dried on potassium carbonate and then the ether was distilled. The base produced was dissolved in 30 cm3 of acetone and then a solution of 34 g of hydrochloric acid in 330 cm3 of acetone was added. The hydrochloride precipitate was dried, washed with acetone and then dried. After recrystallization from isopropyl alcohol, 154 g of N-(1-ethyl-2-pyrrolidylmethyl)-2,3-methylenedioxybenzamide hydrochloride was produced (M.P.: 127.5°-128.5° C.; yield: 49.7%).

reactant | 1-ethyl-2-aminomethyl-pyrrolidine | 134 g | C(C)N1C(CCC1)CN | C7H16N2
reactant | 2,3-methylenedioxyl benzoyl chloride | 183 g | C1C2=C(C(=O)Cl)C=C(C(=C21)O)O | C8H5ClO3
reactant | hydrochloric acid | 34 g | Cl | ClH
reactant | acetone | 30 cm3 | CC(=O)C | C3H6O
reactant | acetone | 330 cm3 | CC(=O)C | C3H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | 1 liter | O | H2O
solvent | chloroform | 950 cm3 | C(Cl)(Cl)Cl | CHCl3
product | N-(1-ethyl-2-pyrrolidylmethyl)-2,3-methylenedioxybenzamide hydrochloride | 154 g, yield: 49.7% | Cl.C(C)N1C(CCC1)CNC(C1=C2C(=CC=C1)OCO2)=O | InChI=1S/C15H20N2O3.ClH/c1-2-17-8-4-5-11(17)9-16-15(18)12-6-3-7-13-14(12)20-10-19-13;/h3,6-7,11H,2,4-5,8-10H2,1H3,(H,16,18);1H
